US05264576
1-[2-(1H-Imidazoyl)ethyl]-3-phenyl-1H-pyrazolo[4,3-c]pyridine
3-Phenyl-1H-pyrazolo[4,3-c]pyridine (2.93 g) was suspended in 30 ml of N,N-dimethylformamide to which 1-(2-chloroethyl)imidazole (2.15 g) and K2CO3 (2.3 g) had been added. This mixture was stirred and warmed at 90° for 2 hours and then an additional 0.20 g of 1-(2-chloroethyl)imidazole and 0.2 g of K2CO3 were added. After an additional 45 minutes, the reaction mixture was distributed between H2O and ethyl acetate and the organic phase was washed with water. Evaporation and trituration with ether gave 2.15 g of product after recrystallization from CH2Cl2 -pentane, mp 123°-125°.

reactant | 3-Phenyl-1H-pyrazolo[4,3-c]pyridine | 2.93 g | C1(=CC=CC=C1)C1=NNC2=C1C=NC=C2 | C12H9N3
reactant | 1-(2-chloroethyl)imidazole | 2.15 g | ClCCN1C=NC=C1 | C5H7ClN2
reactant | K2CO3 | 2.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-chloroethyl)imidazole | 0.20 g | ClCCN1C=NC=C1 | C5H7ClN2
reactant | K2CO3 | 0.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[2-(1H-Imidazoyl)ethyl]-3-phenyl-1H-pyrazolo[4,3-c]pyridine | 2.15 g | N1C(=NC=C1)C(=O)CCN1N=C(C=2C=NC=CC21)C2=CC=CC=C2 | C18H15N5O
